US04166735
(a) Preparation of 3-(trifluoromethyl)-4-(cyclopropylmethoxy)nitrobenzene
To a cooled (10° C.) solution containing 22.5 g (0.1 mole) of 3-(trifluoromethyl)-4-chloronitrobenzene in 100 ml of DMSO was added with stirring at ambient temperature a solution containing 0.11 mole of sodium cyclopropylmethoxide (prepared by dissolving 4.9 g of 57% sodium hydride in 7.9 g of cyclopropylmethanol and 50 ml of tetrahydrofuran) in 100 ml of DMSO. The reaction mixture was heated at 50° C. for one hour, poured into ice water and filtered. Recrystallization of the filter cake from hexane gave 11.0 g (42%) of product as a white crystalline solid, m.p. 41°-44° C.

reactant | 3-(trifluoromethyl)-4-chloronitrobenzene | 0.1 mole, 22.5 g | FC(C=1C=C(C=CC1Cl)[N+](=O)[O-])(F)F | C7H3ClF3NO2
reactant | sodium cyclopropylmethoxide | 0.11 mole, 50 ml, 4.9 g | C1(CC1)C[O-].[Na+]
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 3-(trifluoromethyl)-4-(cyclopropylmethoxy)nitrobenzene | 11.0 g, 42% | FC(C=1C=C(C=CC1OCC1CC1)[N+](=O)[O-])(F)F | C11H10F3NO3
